US08217034B2
{[(4R,12aS)-9-({[(2,4-Difluorophenyl)methyl]amino}carbonyl)-4-methyl-6,8-dioxo-3,4,6,8,12,12a-hexahydro-2H-pyrido[1′,2′:4,5]pyrazino[2,1-b][1,3]oxazin-7-yl]oxy}methyl 2-(methyloxy)ethyl carbonate
The title compound was prepared from iodomethyl 2-(methyloxy)ethyl carbonate (59 mg, 0.227 mmol) (prepared in a similar manner to example 1), (4R,12aS)-N-[(2,4-Difluorophenyl)methyl]-7-hydroxy-4-methyl-6,8-dioxo-3,4,6,8,12,12a-hexahydro-2H-pyrido[1′,2′:4,5]pyrazino[2,1-b][1,3]oxazine-9-carboxamide sodium salt (50 mg, 0.113 mmol), potassium carbonate (47 mg, 0.340 mmol), and tetrabutylammonium hydrogen sulfate (39 mg, 0.113 mmol), using a similar process to that described in example 1. 1H NMR (CDCl3) δ 10.32 (m, 1H), 8.37 (s, 1H), 7.31 (m, 1H), 6.77 (m, 2H), 5.83 (m, 2H), 5.16 (m, 1H), 4.92 (m, 1H), 4.57 (d, J=6 Hz, 2H), 4.29-4.23 (m, 3H), 4.16 (m, 1H), 3.93 (m, 2H), 3.62-3.57 (m, 2H), 3.32 (s, 3H), 2.13 (m, 1H), 1.46 (m, 1H), 1.30 (d, J=7.2 Hz, 3 H). ES+MS: 552 (M+1).

reactant | iodomethyl 2-(methyloxy)ethyl carbonate | 0.227 mmol, 59 mg | C(OCI)(OCCOC)=O | C5H9IO4
reactant | (4R,12aS)-N-[(2,4-Difluorophenyl)methyl]-7-hydroxy-4-methyl-6,8-dioxo-3,4,6,8,12,12a-hexahydro-2H-pyrido[1′,2′:4,5]pyrazino[2,1-b][1,3]oxazine-9-carboxamide sodium salt | 0.113 mmol, 50 mg | [Na].FC1=C(C=CC(=C1)F)CNC(=O)C=1C(C(=C2N(C[C@@H]3OCC[C@H](N3C2=O)C)C1)O)=O
reactant | potassium carbonate | 0.340 mmol, 47 mg | C([O-])([O-])=O.[K+].[K+]
catalyst | tetrabutylammonium hydrogen sulfate | 0.113 mmol, 39 mg | S(=O)(=O)(O)[O-].C(CCC)[N+](CCCC)(CCCC)CCCC
product | {[(4R,12aS)-9-({[(2,4-Difluorophenyl)methyl]amino}carbonyl)-4-methyl-6,8-dioxo-3,4,6,8,12,12a-hexahydro-2H-pyrido[1′,2′:4,5]pyrazino[2,1-b][1,3]oxazin-7-yl]oxy}methyl 2-(methyloxy)ethyl carbonate | C(OCOC=1C(C(=CN2C[C@@H]3OCC[C@H](N3C(C21)=O)C)C(=O)NCC2=C(C=C(C=C2)F)F)=O)(OCCOC)=O | C25H27F2N3O9
